US08476430B2
A. Methyl 4-bromo-3-(2-methylallyloxy)benzoate
To a heterogeneous mixture of methyl 4-bromo-3-hydroxybenzoate (1.5 g, 6.49 mmol) and potassium carbonate (1.795 g, 12.98 mmol) in anhydrous acetone (50 mL) was added 3-bromo-2-methylprop-1-ene (2.62 mL, 26.0 mmol) at rt. The mixture was stirred rt for 4 h. The insoluble material was removed by filtration. The filtrate was concentrated under vacuum. The residue was diluted with ethyl acetate (100 mL), washed sequentially with 1 N NaOH solution (30 mL), water (2×40 mL), and brine (30 mL). The organic solution was dried over anhydrous MgSO4 and concentrated under vacuum. The residue was applied to ISCO (80 g silica gel, 5-10% ethyl acetate/hexane) to provide the desired product, methyl 4-bromo-3-(2-methylallyloxy)benzoate (1.81 g, 6.35 mmol, 98% yield), as a colorless oil.

reactant | methyl 4-bromo-3-hydroxybenzoate | 6.49 mmol, 1.5 g | BrC1=C(C=C(C(=O)OC)C=C1)O | C8H7BrO3
reactant | potassium carbonate | 12.98 mmol, 1.795 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-2-methylprop-1-ene | 26.0 mmol, 2.62 mL | BrCC(=C)C | C4H7Br
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | methyl 4-bromo-3-(2-methylallyloxy)benzoate | 6.35 mmol, 1.81 g, 98% yield | BrC1=C(C=C(C(=O)OC)C=C1)OCC(=C)C | C12H13BrO3
